US05780437
2-[2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-3-yl)butylamino]ethyl]-1H-indol-5-yl]-2-methylpropionic acid ethyl ester
A dry flask containing 3.00 g (7.93 mmol) of 2-[3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester (prepared essentially as described in EXAMPLE 1 from ethyl 2-(4-hydrazinophenyl)-2-methylpropionate), 4.76 g (39.7 mmol) of anhydrous magnesium sulfate, and a magnetic stirring bar was fitted with a septum and needle adapter leading to a Firestone valve. The flask was thoroughly purged with nitrogen, and the mixture was cooled in an ice-methanol bath at -10° to -5° C. and stirred vigorously as a solution of 1.32 g (8.88 mmol) of 4-(pyridin-3-yl)butyraldehyde in 15 mL of dry CDCl3 was added gradually by syringe over 10-15 minutes. The resulting mixture was stirred under nitrogen at -10° to -5° C. for 40-45 minutes. Then the septum was removed just long enough to add 390 mg (10.3 mmol) of sodium borohydride. The mixture was stirred under nitrogen at -10° to -5° C. as 10 mL of dry methanol was added dropwise by syringe over several minutes. After 30 minutes, the mixture was removed from the cooling bath and partitioned between 90 mL of ethyl acetate and 90 mL of water. The organic layer was washed with 2×30 mL of brine, then dried over anhydrous sodium sulfate. The filtered solution was concentrated in vacuo, and the residue was flash chromatographed of silica gel (gradient elution with 0-10% methanol in methylene chloride). Fractions containing product and a small amount of unreacted starting material were combined and concentrated to give 3.00 g of light beige, stiff foam, used directly in the next step without further purification or characterization.

reactant | 2-[3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indol-5-yl]-2-methylpropionic acid ethyl ester | 7.93 mmol, 3.00 g | C(C)OC(C(C)(C)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN)=O | C24H30N2O2
reactant | ethyl 2-(4-hydrazinophenyl)-2-methylpropionate | N(N)C1=CC=C(C=C1)C(C(=O)OCC)(C)C | C12H18N2O2
reactant | magnesium sulfate | 39.7 mmol, 4.76 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 4-(pyridin-3-yl)butyraldehyde | 8.88 mmol, 1.32 g | N1=CC(=CC=C1)CCCC=O | C9H11NO
reactant | sodium borohydride | 10.3 mmol, 390 mg | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 2-[2-(3,5-dimethylphenyl)-3-[2-[4-(pyridin-3-yl)butylamino]ethyl]-1H-indol-5-yl]-2-methylpropionic acid ethyl ester | C(C)OC(C(C)(C)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNCCCCC=1C=NC=CC1)=O | C33H41N3O2
